US08076336B2
2-Bromo-1-[3-tert-butyl-5-(3,3,3-trifluoropropoxy)phenyl]ethanone
1-[3-tert-Butyl-5-(3,3,3-trifluoropropoxy)phenyl]ethanone (O2.107; 170 mg, 0.59 mmol) was dissolved in a mixture of THF (3 ml) and methanol (3 ml). While stirring, phenyltrimethylammonium tribromide (222 mg, 0.59 mmol) was introduced and the mixture was stirred overnight. The reaction mixture was diluted with ethyl acetate and washed with saturated sodium hydrogencarbonate solution. After drying over sodium sulfate, the solvent was removed and the residue was purified by flash chromatography (n-heptane:ethyl acetate). Yield: 42 mg,

reactant | 1-[3-tert-Butyl-5-(3,3,3-trifluoropropoxy)phenyl]ethanone | 0.59 mmol, 170 mg | C(C)(C)(C)C=1C=C(C=C(C1)OCCC(F)(F)F)C(C)=O | C15H19F3O2
reactant | phenyltrimethylammonium tribromide | 0.59 mmol, 222 mg | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | methanol | 3 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Bromo-1-[3-tert-butyl-5-(3,3,3-trifluoropropoxy)phenyl]ethanone | BrCC(=O)C1=CC(=CC(=C1)OCCC(F)(F)F)C(C)(C)C | C15H18BrF3O2
